US04012432
N-Benzenesulfonyl-N'-carbomethoxy Hydrazine
180 g. (0.2 mole) of methyl carbazate (from hydrazine and dimethyl carbonate) is placed in a liter flask. 20.0 g. (0.24 mole) of sodium bicarbonate and 100 ml. water are added. The mixture is stirred and dropped in 35.2 g. (0.2 mole) of benzene sulfonyl chloride. Then the mixture is stirred for 16 hours. The crystals that have formed are filtered off, washed with water, and dried in air. Yield = 34.5 g.; m.p. 149°-154° C. Upon recrystallization from ethanol 26 g. of material is recovered which melts sharply at 155° C.

reactant | methyl carbazate | 0.2 mole | C(NN)(=O)OC | C2H6N2O2
reactant | sodium bicarbonate | 0.24 mole | C([O-])(O)=O.[Na+]
reactant | benzene sulfonyl chloride | 0.2 mole | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | water | O | H2O
product | N-Benzenesulfonyl-N'-carbomethoxy Hydrazine | C1(=CC=CC=C1)S(=O)(=O)NNC(=O)OC | C8H10N2O4S
